US07618978B2
tert-Butyl 3(R)-[(1S,2S)-2-(Acetylamino)-3-(3,5-difluorophenyl)-1-hydroxypropyl]-5-bromo-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
Slurry tert-butyl (3R)-3-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxy-propyl]-5-bromo-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate (59.4 mg, 0.000113 mol) in tetrahydrofuran (1.00 mL). Add triethylamine (15.7 uL, 0.000113 mol) and acetic anhydride (10.6 uL, 0.000113 mol) and stir for 45 minutes. Dilute dichloro-methane (25 mL) and wash with water (1×10 mL), 0.1N HCl (1×10 mL), saturated aqueous sodium bicarbonate (1×10 mL), saturated aqueous sodium chloride (1×10 mL) and dry over magnesium sulfate. Concentrate the filtrate to give the desired product (57.9, 88%) as a white solid.

reactant | tert-butyl (3R)-3-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxy-propyl]-5-bromo-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.000113 mol, 59.4 mg | N[C@H]([C@H](O)[C@@H]1N(CC2=C(C=CC(=C2C1)Br)OC)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)F)F | C24H29BrF2N2O4
reactant | triethylamine | 0.000113 mol, 15.7 uL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.000113 mol, 10.6 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 1.00 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3(R)-[(1S,2S)-2-(Acetylamino)-3-(3,5-difluorophenyl)-1-hydroxypropyl]-5-bromo-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 88% | C(C)(=O)N[C@H]([C@H](O)[C@@H]1N(CC2=C(C=CC(=C2C1)Br)OC)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)F)F | C26H31BrF2N2O5
